US08629137B2
Step 3: 6-(2-chloro-6-methoxy-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one
Under a nitrogen atmosphere 0.13 g (2.9 mmol) sodium hydride (55%, suspension in mineral oil) were added 0.90 g (2.8 mmol) 6-(2-chloro-6-methoxy-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one in 10 mL DMF at RT. The reaction mixture was stirred for 30 min at RT. Then 0.18 mL (5.0 mmol) iodomethane in 1 mL DMF were added dropwise and the mixture was stirred overnight at RT. The reaction mixture was poured onto water and the precipitate formed was suction filtered and washed with water. The residue was extracted with diethyl ether, suction filtered and dried.

reactant | sodium hydride | 2.9 mmol, 0.13 g | [H-].[Na+]
reactant | 6-(2-chloro-6-methoxy-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | 2.8 mmol, 0.90 g | ClC1=NC(=CC(=C1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C)OC | C15H11ClN2O4
reactant | iodomethane | 5.0 mmol, 0.18 mL | IC | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-(2-chloro-6-methoxy-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | ClC1=NC(=CC(=C1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C)OC | C16H13ClN2O4
